US07807709B2
c. 4-Methoxy-5-(3-methoxy-propoxy)-2-methyl-benzaldehyde
To a solution of 1-bromo-4-methoxy-5-(3-methoxy-propoxy)-2-methyl-benzene (2.50 g, 8.65 mmol) in THF (25 mL), cooled to −70° C., is added a 1.6M solution of n-buthyllithium in hexane (5.94 mL, 9.51 mmol). After 30 min, DMF (1.05 mL, 13.0 mmol) is added and stirring is continued overnight while the reaction mixture is gradually warmed to room temperature. Quenching with ice-cold 1N aqueous HCl is followed by extraction with diethyl ether. The combined organic layers are washed with brine, dried (Na2SO4) and concentrated. Purification by flash chromatography on silica gel (hexane/AcOEt 7:2) gives the title compound as oil. TLC, Rf (hexane/AcOEt 1:1)=0.29. MS: 239.2 [M+H]+. 1H-NMR (CDCl3): δ 2.16 (m, 2H), 2.66 (s, 3H), 3.39 (s, 3H), 3.60 (m, 2H), 3.97 (s, 3H), 4.18 (m, 2H), 6.73 (s, 1H), 7.40 (s, 1H), 10.2 (s, 1H) ppm.

reactant | 1-bromo-4-methoxy-5-(3-methoxy-propoxy)-2-methyl-benzene | 8.65 mmol, 2.50 g | BrC1=C(C=C(C(=C1)OCCCOC)OC)C | C12H17BrO3
reactant | hexane | 9.51 mmol, 5.94 mL | CCCCCC | C6H14
reactant | DMF | 13.0 mmol, 1.05 mL | CN(C)C=O | C3H7NO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 4-Methoxy-5-(3-methoxy-propoxy)-2-methyl-benzaldehyde | COC1=CC(=C(C=O)C=C1OCCCOC)C | C13H18O4
